US06642240B2
2-(3,5-Bis-trifluoromethyl-phenyl)-2-methyl-propionic acid
A solution of 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionic acid, methyl ester (intermediate 69-184 mg) and potassium hydroxide (131 mg) in MeOH (2.5 mL) was heated to reflux for 1 hour, then it was allowed to cool to r.t. and acidified to pH=3 with 10% hydrochloric acid solution and extracted with AcOEt (2×10 mL). The combined organic extracts were dried and concentrated in vacuo to a residue which was purified by flash chromatography (CH/AcOEt from 8:2 to 6:4) to give the title compound (141 mg) as a white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionic acid, methyl ester | 69-184 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)OC)(C)C)(F)F | C13H12F6O2
reactant | potassium hydroxide | 131 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 2.5 mL | CO | CH4O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-2-methyl-propionic acid | 141 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)O)(C)C)(F)F | C12H10F6O2
